US07335660B2
b) Ethyl (5-chloro-1,3-dihydro-2-benzofuran-1-yl)acetate
5-Chloro-1,3-dihydro-2-benzofuran-1-ol (2.95 g, 17.3 mmol) was dissolved in THF (60 mL) and cooled to 0° C. Triethyl phosphonoacetate (11.7 g, 52.1 mmol) and caesium carbonate (17 g, 52.1 mmol) were added. After 20 min the cold bath was removed and the reaction mixture allowed to stir at room temperature for 3 h, then quenched with a saturated solution of ammonium chloride and extracted with ethyl acetate. The combined organic layers were washed with brine, dried (MgSO4), filtered and evaporated in vacuo. Purification by column chromatography, eluting with ethyl acetate/hexane (1:4), yielded the title compound as a colourless oil.

reactant | 5-Chloro-1,3-dihydro-2-benzofuran-1-ol | 17.3 mmol, 2.95 g | ClC1=CC2=C(C(OC2)O)C=C1 | C8H7ClO2
reactant | caesium carbonate | 52.1 mmol, 17 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | THF | 60 mL | C1CCOC1 | C4H8O
product | Ethyl (5-chloro-1,3-dihydro-2-benzofuran-1-yl)acetate | ClC1=CC2=C(C(OC2)CC(=O)OCC)C=C1 | C12H13ClO3
